US06235747B1
B. 2-Bromo-6-(2,5-dimethylpyrrol-1-yl)pyridine
To a 1 L round-bottomed flask equipped with Dean-Stark trap, condenser, and nitrogen inlet were added 21.3 g(123 mmol) 2-amino-6-bromopyridine, 400 mL toluene, 14.1 g(123 mmol) acetonylacetone, and 20 drops acetic acid. The reaction was refluxed 5 days (tlc in 1/1:ethyl acetate/hexane, Rf=0.8 (product), 0.5 (starting material)), cooled, poured into ethyl acetate, washed with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using 5% methanol in methylene chloride to afford 14.4 g(47%) of the product as a low-melting yellow solid.

reactant | 2-amino-6-bromopyridine | 123 mmol, 21.3 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
reactant | acetonylacetone | 123 mmol, 14.1 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | acetic acid | 20 drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-6-(2,5-dimethylpyrrol-1-yl)pyridine | 14.4 g, 47% | BrC1=NC(=CC=C1)N1C(=CC=C1C)C | C11H11BrN2
